US05776488
DPPC (220.2 mg), cholesterol (69.0 mg) and stearylamine (32.4 mg) in DPPC:cholesterol:stearylamine=50:30:20 mol % were dissolved in 10 ml of ethanol heated to about 60° C., and this ethanol solution was poured into a 5 wt % aqueous glucose solution (200 ml) being stirred with heating at about 55° C. to give a suspension of liposomes having a small particle size of about 60 nm. This liposome suspension was subjected to ultrafiltration to remove ethanol, and concentrated to about 10 ml. A 1.5 wt % aqueous DMDC solution (10 ml) was added to this liposome suspension and the mixture was freeze-dried. Purified water (10 ml) heated to about 55° C. was added to this freeze-dried liposome product. After rehydration, a stirring treatment gave a liposome suspension. To unify the liposome particle size of this suspension, the suspension was subjected to a sizing treatment using an Extruder (manufactured by Lipex Biomembranes Inc.) equipped with a Nucleopore membrane (manufactured by Nomura Microscience) having a pore diameter of from 0.6 to 0.2 μm to give liposomes having a uniform average particle size of about 160 nm. Then, DMDC not encapsulated was removed by ultrafiltration to give DMDC liposomes.

reactant | glucose | 200 ml | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | Lipex | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C25H38O5
reactant | DPPC | CCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCCCCCCCCCC | C40H80NO8P
reactant | DPPC | 220.2 mg | CCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCCCCCCCCCC | C40H80NO8P
solvent | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
solvent | stearylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | stearylamine | 32.4 mg | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | cholesterol | 69.0 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
product | DMDC | COC(=O)OC(=O)OC | C4H6O5
